US05977178
A solution of of N-methyl-N-((1R)-2-(N-methyl-N-(methylsulfonyl)amino)-1-((2-thienyl) methyl)ethyl)carbamic acid tert-butyl ester (1.87 g, 7.12 mmol) in dichloromethane (7 ml) was cooled to 0° C. Trifluoroacetic acid (7 ml) was added. The reaction mixture was stirred for 45 min at 0° C. Dichloromethane (10 ml) was added. A saturated aqueous solution of sodium hydrogen carbonate (10 ml) was added. Solid sodium hydrogen carbonate was added until pH 7. Water (100 ml) was added, until a clear solution was obtained. The phases were separated. The aqueous phase was extracted with dichloromethane (2×50 ml). The combined organic phases were dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (120 g), using dichloromethane/methanol/25% aqueous ammonia as eluent, to give 1.24 g of N-methyl-N-((2R)-2-(methylamino)-3-(2-thienyl)propyl)methanesulfonamide.

reactant | N-methyl-N-((1R)-2-(N-methyl-N-(methylsulfonyl)amino)-1-((2-thienyl) methyl)ethyl)carbamic acid tert-butyl ester | 7.12 mmol, 1.87 g | C(C)(C)(C)OC(N([C@@H](CN(S(=O)(=O)C)C)CC=1SC=CC1)C)=O | C15H26N2O4S2
reactant | Trifluoroacetic acid | 7 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydrogen carbonate | 10 ml | C(O)([O-])=O.[Na+]
reactant | Water | 100 ml | O | H2O
solvent | dichloromethane | 7 ml | ClCCl | CH2Cl2
solvent | Dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-methyl-N-((2R)-2-(methylamino)-3-(2-thienyl)propyl)methanesulfonamide | 1.24 g | CN(S(=O)(=O)C)C[C@@H](CC=1SC=CC1)NC | C10H18N2O2S2
